US05958918
A. 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared as described in EXAMPLE 125, Part C using 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)pyridine-2-carbonitrile trifluoroacetate in place of 4-(3-(S)-amino-2-oxopyrrolidine-1-ylmethyl)-thiophene-2-carbonitrile hydrochloride and with 5-chloro-3-methyl-benzo[b]thiophene-2-sulfonyl chloride in place of 7-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by column chromatography eluting with gradient of 25% EtOAc/CH2Cl2 to 50% EtOAc/CH2Cl2 to afford the title compound as a white solid.

reactant | 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)pyridine-2-carbonitrile trifluoroacetate | FC(C(=O)O)(F)F.N[C@@H]1C(N(CC1)CC1=CC(=NC=C1)C#N)=O
reactant | 5-chloro-3-methyl-benzo[b]thiophene-2-sulfonyl chloride | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
product | 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic acid [1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=NC=CC(=C1)CN1C([C@H](CC1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)=O | C20H17ClN4O3S2
